US07902197B2
A mixture of 1-[2-bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one (0.053 g, 0.129 mmol), N-methylaniline (0.021 mL, 0.19 mmol), Pd2(dba)3 (0.012 g, 0.013 mmol), BINAP (0.012 g, 0.019 mmol) and cesium carbonate (0.084 g, 0.258 mmol) in 2 mL of toluene was stirred at 120° C. in a microwave for 1 h, then at 150° C. in a microwave for 1 h, then at 180° C. in a microwave for 1 h, then concentrated to a residue. Column chromatography (0→30% EtOAc/hexanes) afforded 0.021 g (37%) of 2,2-dimethyl-1-[2-(methyl-phenyl-amino)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one as a yellow oil.

reactant | 1-[2-bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.129 mmol, 0.053 g | BrC=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C17H26BrN3O2Si
reactant | N-methylaniline | 0.19 mmol, 0.021 mL | CNC1=CC=CC=C1 | C7H9N
reactant | BINAP | 0.019 mmol, 0.012 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 0.258 mmol, 0.084 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.013 mmol, 0.012 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2,2-dimethyl-1-[2-(methyl-phenyl-amino)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one | 0.021 g, 37% | CC(C(=O)C1=CN(C2=NC=C(N=C21)N(C2=CC=CC=C2)C)COCC[Si](C)(C)C)(C)C | C24H34N4O2Si
